US07482354B2
1-methyl-8-[(phenylacetyl)amino]-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B05-X01-M00(C01)-D03]
0.40 g (1.47 mmol) of 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide were suspended in 20 mL of tetrahydrofuran and 5 mL of pyridine and 0.42 mL (3.22 mmol) of phenylacetylchloride were added. The reaction mixture was stirred at room temperature for 16 hours. The solvent was evaporated, the residue redissolved with dichloromethane, washed with aqueous NaHCO3 and then with water. After drying over anhydrous Na2SO4 the solvent was removed under reduced pressure and the crude purified by chromatography on a silica gel column (eluant cyclohexane/acetone) giving 0.35 mg of the title compound (60% yield).

reactant | 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 1.47 mmol, 0.40 g | NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)N | C11H10N6O
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | phenylacetylchloride | 3.22 mmol, 0.42 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-methyl-8-[(phenylacetyl)amino]-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.35 mg, 60% yield | CN1N=C(C=2C=CC=3C=NC(=NC3C21)NC(CC2=CC=CC=C2)=O)C(=O)N | C19H16N6O2
